US07319099B2
(a) 5-Chlorosulfonyl-2-trifluoromethoxy-benzoic acid
A solution of 2-trifluoromethoxy benzoic acid [1979-29-9] (1.0 g) was added in small batches to chlorosulfonic acid (3.2 mL) at 0° C. After completion of the addition, the reaction mixture was stirred at 70° C. for 4 hours then left at room temperature overnight and heated at 75° C. for another 3 hours. After such time the reaction was slowly poured onto ice, and the precipitate was then filtered, washed with water and dried to yield the title compound as a white solid (1.2 g). MS (m/e): 303.3 (M−H, 100%).

reactant | 2-trifluoromethoxy benzoic acid | 1.0 g | FC(OC1=C(C(=O)O)C=CC=C1)(F)F | C8H5F3O3
reactant | chlorosulfonic acid | 3.2 mL | ClS(=O)(=O)O | ClHO3S
product | 5-Chlorosulfonyl-2-trifluoromethoxy-benzoic acid | 1.2 g | ClS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)OC(F)(F)F | C8H4ClF3O5S
